* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM7172-2.5.asc
* Generated by LTspice 24.1.9 for Windows.
C2 N001 0 1n
V1 IN 0 3
Rload OUT 0 2
C1 OUT 0 4.7µ Rser=1.5m
X§U1 IN OUT IN N001 OUT 0 ADM7172-2.5
.tran 5m startup
.lib ADM7172-2.5.sub
.backanno
.end
